US05773388
Synthesis of 5-(1-Hydroxyethyl)-4-trifluoromethylpyrimidine (Compound No. 102)
0.5 g of 5-acetyl-4-trifluoromethylpyrimidine was dissolved in 10 ml of dry methanol. 0.03 g of sodium boron hydride was added, and the mixture was stirred for 30 minutes under cooling with ice, and then further stirred overnight at room temperature. After the completion of the reaction, the solvent was distilled off, and 40 ml of a 1:1 solvent mixture of chloroform/water was added for chloroform extraction. After the chloroform layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. After purification by column chromatography, 0.2 g of the desired product was obtained as a viscous liquid. nD19.9 1.4549

reactant | 5-acetyl-4-trifluoromethylpyrimidine | 0.5 g | C(C)(=O)C=1C(=NC=NC1)C(F)(F)F | C7H5F3N2O
reactant | sodium boron hydride | 0.03 g | B.[Na]
solvent | methanol | 10 ml | CO | CH4O
product | 5-(1-Hydroxyethyl)-4-trifluoromethylpyrimidine | 0.2 g | OC(C)C=1C(=NC=NC1)C(F)(F)F | C7H7F3N2O
